US05948775
2-Amino-N-[4-(2-chloro-ethoxy)-phenyl]-4-methoxy-benzamide
To a solution of 11.11 g (0.0575 mol) of 7-methoxyisatoic anhydride in 300 mL of ethanol was added a catalytic amount of 4-dimethylaminopyridine and 144 mL of a 1M solution containing 24.7 g (0.144 mol) of 4-(2-chloroethoxy)-aniline. The reaction mixture was sired and heated under reflux for 3 hours. One half of the solvent was evaporated in a rotary evaporator. The reaction mixture was then cooled on ice. The precipitate that formed was collected by vacuum filtration and amounted to 16.4 g. An analytical sample (mp 167-168° C.) was obtained by recrystallization from ethanol.

reactant | 7-methoxyisatoic anhydride | 0.0575 mol, 11.11 g | COC1=CC2=C(C=C1)C(=O)NC(=O)O2 | C9H7NO4
reactant | 4-(2-chloroethoxy)-aniline | 0.144 mol, 24.7 g | ClCCOC1=CC=C(N)C=C1 | C8H10ClNO
reactant | ethanol | 300 mL | C(C)O | C2H6O
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-Amino-N-[4-(2-chloro-ethoxy)-phenyl]-4-methoxy-benzamide | NC1=C(C(=O)NC2=CC=C(C=C2)OCCCl)C=CC(=C1)OC | C16H17ClN2O3
